US06313312B1
{6-[3-(Acetylamino)phenyl]-3-hexyl-3-azabicyclo[3.1.0]hex-6-yl}methyl acetate
A solution of [6-(3-aminophenyl)-3-hexyl-3-azabicyclo[3.1.0]hex-6-yl]methanol (Preparation 94, 0.03 g, 0.09 nmnol) in tetrahydrofuran (2 ml), stirred under nitrogen and cooled to 0° C., was treated with triethylamine (0.03 ml, 0.19 mmol) and acetyl chloride (0.01 ml, 0.17 mmol). The reaction mixture was stirred at room temperature for 3 h, saturated aqueous sodium hydrogen carbonate (50 ml) was added and the product was extracted with ethyl acetate (25 ml×3). The combined organic extracts were dried (Na2SO4) and then concentrated in vacuo. The crude residue was purified on a Sep-Pak™ cartridge packed with silica gel (5 g) to give the product as a clear glass, (11 mg, 34%).

reactant | [6-(3-aminophenyl)-3-hexyl-3-azabicyclo[3.1.0]hex-6-yl]methanol | 0.03 g | NC=1C=C(C=CC1)C1(C2CN(CC12)CCCCCC)CO | C18H28N2O
reactant | triethylamine | 0.19 mmol, 0.03 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.17 mmol, 0.01 ml | C(C)(=O)Cl | C2H3ClO
reactant | sodium hydrogen carbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | {6-[3-(Acetylamino)phenyl]-3-hexyl-3-azabicyclo[3.1.0]hex-6-yl}methyl acetate | 11 mg, 34% | C(C)(=O)OCC1(C2CN(CC12)CCCCCC)C1=CC(=CC=C1)NC(C)=O | C22H32N2O3
